US07618975B2
6,7-Dimethoxy-N4-(4-methoxy-phenyl)-N4-methyl-N2-(2-morpholin-4-yl-ethyl)-quinazoline-2,4-diamine
The title compound was prepared from (2-chloro-6,7-dimethoxyquinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine (50 mg, 0.139 mmol) and 2-morpholin-4-yl-ethylamine (25 μL, 0.167 mmol) by a procedure similar to example 10 and was isolated as white powder (27 mg, 54%). 1H NMR (CDCl3): 7.21 (d, J=8.4 Hz, 2H), 7.00 (d, J=8.4 Hz, 2H), 6.93 (s, 1H), 6.13 (s, 1H), 3.95 (s, 3H), 3.84 (s, 3H), 3.77-3.74 (m, 4H), 3.71-3.66 (m, 2H), 3.60 (s, 3H), 3.25 (s, 3H), 2.70 (t, J=7.2 Hz, 2H), 2.59-2.56 (m, 4H).

reactant | (2-chloro-6,7-dimethoxyquinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.139 mmol, 50 mg | ClC1=NC2=CC(=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)OC)OC)OC | C18H18ClN3O3
reactant | 2-morpholin-4-yl-ethylamine | 0.167 mmol, 25 μL | N1(CCOCC1)CCN | C6H14N2O
product | 6,7-Dimethoxy-N4-(4-methoxy-phenyl)-N4-methyl-N2-(2-morpholin-4-yl-ethyl)-quinazoline-2,4-diamine | COC=1C=C2C(=NC(=NC2=CC1OC)NCCN1CCOCC1)N(C)C1=CC=C(C=C1)OC | C24H31N5O4
